US07037935B2
a) (RS)-1-(4-Benzyloxy-phenyl)-4-hydroxymethyl-pyrrolidin-2-one
The title compound is prepared in analogy to Example 33a) from (RS)-1-(4-benzyloxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester and sodium borohydride. Yield: 82% of a colorless solid. MS: m/e=298.3 (M+H)+.

reactant | (RS)-1-(4-benzyloxy-phenyl)-5-oxo-pyrrolidine-3-carboxylic acid methyl ester | COC(=O)C1CN(C(C1)=O)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C19H19NO4
reactant | sodium borohydride | [BH4-].[Na+]
product | (RS)-1-(4-Benzyloxy-phenyl)-4-hydroxymethyl-pyrrolidin-2-one | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(CC(C1)CO)=O | C18H19NO3
